US07153855B2
To a cold (0° C.) solution of N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine (33 mg, 0.07 mmol) in N,N-dimethylformamide (3 mL) was added triethylamine (0.03 mL, 0.21 mmol) and d-biotin-N-hydroxysuccinimide ester (27 mg, 0.08 mmol). The resultant mixture was warmed to room temperature and stirred for 30 minutes. A subsequent 5 mg of d-biotin-N-hydroxysuccinimide ester was added and the mixture was stirred an additional 30 minutes. Water was added and the layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate and then brine. The aqueous layer was extracted with dichloromethane and the combined organics were dried over sodium sulfate. Filtration and concentration followed by flash chromatography (5% to 8% methanol in dichloromethane) provided 5-[(3aS,4S,6aR)-2-oxohexahydro-1H-thieno[3,4-d]imidazol-4-yl]-N-(4-{[3-[2-(cyclopentylamino)-pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)-pentanamide (25 mg, 51%) as a yellow solid. 1H NMR (CDCl3): δ 7.98 (d, 1 H), 7.80 (d, 1 H), 7.58 (d, 2 H), 7.32 (m, 1 H), 7.00 (d, 2 H), 6.60 (s,1 H), 6.39 (m, 1 H), 6.33 (d, 1 H), 6.18 (m, 1 H), 6.02 (m, 1 H), 5.72 (s, 1 H), 5.62 (broad, 1 H), 4.44–4.31 (m, 2 H), 4.19 (m, 1 H), 3.89 (s, 3 H), 3.39 (m, 2 H), 3.28 (m, 2 H), 3.06 (m, 1 H), 2.95 (m, 2 H), 2.77 (dd, 1 H), 2.58 (d, 1 H), 2.20–2.05 (m, 4 H), 1.82–1.54 (m, 12 H), 1.39 (m, 2 H); MS m/z 698 (M+1).

reactant | N-[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]butane-1,4-diamine | 0.07 mmol, 33 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCN)C2=CC=C(C=C2)OC | C27H33N7O
reactant | triethylamine | 0.21 mmol, 0.03 mL | C(C)N(CC)CC | C6H15N
reactant | d-biotin-N-hydroxysuccinimide ester | 0.08 mmol, 27 mg | C1CC(=O)N(C1=O)OC(=O)CCCC[C@H]2[C@@H]3[C@H](CS2)NC(=O)N3 | C14H19N3O5S
reactant | d-biotin-N-hydroxysuccinimide ester | 5 mg | C1CC(=O)N(C1=O)OC(=O)CCCC[C@H]2[C@@H]3[C@H](CS2)NC(=O)N3 | C14H19N3O5S
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 5-[(3aS,4S,6aR)-2-oxohexahydro-1H-thieno[3,4-d]imidazol-4-yl]-N-(4-{[3-[2-(cyclopentylamino)-pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)-pentanamide | 25 mg, 51% | O=C1N[C@H]2[C@@H](N1)CS[C@H]2CCCCC(=O)NCCCCNC2=CC=CC=1N2N=C(C1C1=NC(=NC=C1)NC1CCCC1)C1=CC=C(C=C1)OC | C37H47N9O3S
